US07282588B2
Preparation of N-ethyl-N′-{4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]phenyl}urea
Following the procedure described in Example 1 with 4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]aniline and ethyl isocyanate provided the title compound. ESMS [M+H]+: 363.2

reactant | 4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]aniline | N1C=CC=2C1=NC=CC2C=2SC=CC2C2=CC=C(N)C=C2 | C17H13N3S
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-N′-{4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]phenyl}urea | C(C)NC(=O)NC1=CC=C(C=C1)C1=C(SC=C1)C1=C2C(=NC=C1)NC=C2 | C20H18N4OS
